Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
lisinopril / lorazepam
 
Attending: ___.
 
Chief Complaint:
Left foot pain 
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ y/o M transfered from ___ today for
angiogram/plasty with Dr. ___. He was originally admitted 
to
___ due to confusion and fatigue as well as
dehydration. He was being treated for a pneumonia upon transfer.
Pt. presents today to ___ with a year long history of left 
foot
discomfort, specifically his left hallux, which ___ has been
feeling worse over the past week.  Pt. also states he has gout 
in
his left foot. 

Medicine HPI:
___ yo M w/ PMH of COPD, CKD (unknown baseline cr), CVA with 
residual left arm paresis, and peripheral vascular disease who 
was transferred here for vascular surgery evaluation given 
problems with his toes. While on the floor he PEA arrested and 
was coded x 3 min, then while enroute to the ICU he PEA arrested 
again. Per mention, there was felt to be RV strain on a bedside 
informal TTE and therefore it was felt to likely be due to a 
pulmonary embolism so he was started on a heparin drip. He was 
tranisently on pressors and monitored with an A line. He was 
extubated on ___ without difficulty and was off pressors since 
then as well. He continues to be monitored on telemetry without 
any additional ectopy.
Of note, prior to transfer, the patient was being examined and 
noted to have active hemorrhage from his prior Left AC IV site. 
He was laying in a large pool of blood. Stat Hct was stable and 
VS were wnl. The pressure was applied to stop the bleeding and 
the patient was cleaned up for transfer.
 
Past Medical History:
Vascualr complications, chronic kidney disease, anemia,
COPD, hisotry of pneumonia, failure to thrive, polyneuropathy
with diabetes, hypertension, vascular dementia, idiopathic
pulmonary fibrosis. Pt. is a poor historian but states he had a 
kidney removed.

 
Social History:
___
Family History:
n/c
 
Physical Exam:
VASCULAR SURGERY ADMISSION EXAM:
not recorded

MEDICINE ADMISSION EXAM:
VS 98.0, 103/42, 82, 18, 98% 2L
GEN: A+Ox2 (person and date, not to place but knows its a 
hospital), mildy hard of hearing.
HEENT PEERLA, MMM, no elevated JVP.
PULM moving good air bilaterally, no audible wheezes or crackles 
anteriorly
CV RRR no mrg appreciated, no echymotic areas on his chest, no 
crepitus to palpation. mild tenderness on palpation there.
ABD soft NT ND increased bowel sounds
EXT WWP 2+ pulses palpable bilaterally, no c/c/e. LEft arm with 
dressing saturated in blood in a pool of blood
NEURO CNs2-12 intact, left arm hemiparetic, moving lwoer 
extremities
SKIN no ulcers or lesions
Labs: Reviewed, please see below.

DEATH EXAM: see death note under Brief Hospital Course
 
Pertinent Results:
ADMISSION LABS:

___ 05:50PM BLOOD WBC-9.2 RBC-3.72* Hgb-12.1* Hct-37.5* 
MCV-101* MCH-32.5* MCHC-32.2 RDW-15.4 Plt ___
___ 05:50PM BLOOD ___ PTT-34.5 ___
___ 05:50PM BLOOD Glucose-142* UreaN-27* Creat-1.7* Na-140 
K-4.2 Cl-104 HCO3-24 AnGap-16
___ 10:31PM BLOOD ALT-121* CK(CPK)-89 AlkPhos-100 
Amylase-70 TotBili-0.6
___ 05:50PM BLOOD Calcium-9.1 Phos-3.1 Mg-2.0
___ 10:30PM BLOOD Type-ART pO2-82* pCO2-37 pH-7.09* 
calTCO2-12* Base XS--18
___ 10:30PM BLOOD Glucose-202* Lactate-12.5* Na-140 K-5.2* 
Cl-113*
___ 10:30PM BLOOD freeCa-1.25

LABS ON DAY OF DEATH:

___ 01:36AM BLOOD WBC-12.0* RBC-3.23* Hgb-10.6* Hct-32.0* 
MCV-99* MCH-32.6* MCHC-33.0 RDW-15.3 Plt ___
___ 08:00PM BLOOD Hct-33.4*
___ 01:36AM BLOOD Glucose-98 UreaN-39* Creat-2.3* Na-146* 
K-4.1 Cl-111* HCO3-21* AnGap-18
___ 01:36AM BLOOD ALT-123* AST-136* AlkPhos-110 
Amylase-162* TotBili-0.9
___ 01:36AM BLOOD Calcium-8.8 Phos-3.8 Mg-2.1
___ 09:07AM BLOOD Type-ART pO2-113* pCO2-31* pH-7.46* 
calTCO2-23 Base XS-0
___ 09:07AM BLOOD O2 Sat-98
___ 01:43AM BLOOD freeCa-1.14

PERTINENT MICRO: NONE

PERTINENT IMAGING:
EKG: Sinus rhythm. Generalized low voltage. Q-T interval 
prolongation. T wave
abnormalities. No previous tracing available for comparison. 
Clinical
correlation is suggested.
 
Read ___.
 IntervalsAxes
___
___

ADMISSION CXR:
___ male patient with left lower extremity ischemia,
scheduled for angio but presenting with pneumonia.  Evaluate for 
interval
change. 
Patient's condition required examination in sitting position 
using AP frontal
and left lateral views.  There is moderate cardiac enlargement, 
predominantly
involving the left heart.  The thoracic aorta is of ordinary 
dimension but
demonstrates advanced walled calcifications both in the aortic 
arch as well as
in the entire ascending aorta.  Aortic valve calcifications are 
suspected on
the lateral view.  There exists a diffuse haze over the entire 
left-sided
hemithorax and thickening of the left-sided pleural space is 
noted along the
left lateral chest wall.  There exists some crowded vasculature 
in the left
lower lobe area in retrocardiac position possibly suggesting 
some atelectasis
but acute discrete parenchymal infiltrates identifying a 
pneumonia cannot be
seen.  The right hemithorax is better penetrated and there is no 
evidence of
pleural thickenings on that side.  Also, the lateral pleural 
sinuses are free,
thus no evidence of acute pleural effusion is present.  
Accessible areas of
the pulmonary vasculature do not demonstrate any advanced CHF or 
pulmonary
edema.  Our records do not include a previous chest examination, 
thus there is
no possibility to comment on interval changes

FOLLOW UP CXR:
As compared to the previous radiograph, the patient has been
extubated.  The signs previously indicative of pulmonary edema 
have
substantially decreased.  However, there still is a 
mild-to-moderate left
pleural effusion with subsequent retrocardiac atelectasis.  
Moderate
cardiomegaly.  No evidence of pneumonia.
 
Brief Hospital Course:
This ___ y/o M was transferred from ___ with a 
chief complaint of L foot pain which he has had for about ___ 
year. He was brought to ___ to have an angiogram/plasty with 
Dr. ___. Upon presentation to us patient was currently on 
antibiotics for treatment of pneumonia. He stated his foot was 
painful, specifically his left hallux. It was decided to change 
his oral antibiotics (Levaquin) to IV antibiotics and wait for 
his pneumonia to resolve before taking the patient for Angio. 

On hospital night 1 patient arrested presumably due to a 
pulmonary embolism. He was successfully resuscitated and 
transferred to the CVICU intubated on vasopressors and NO. A 
heparin gtt was empirically started given dilated RV as seen on 
bedside
echo. it was also noted that he was no longer producing any 
urine.

On hospital day 2 the patient was extubated and had oxygen sats 
of 94% with 50% mask. All pressors were stopped and his kidney 
function began to return (UO was between ___ cc/hr). A renal 
consult was called. 

Patient was transferred from the Vascular Surgery service to the 
medical service, given his complicated course, and the decision 
that he would hold off on any vascular decision.  

Prior to admission to the internal medicine service late on the 
evening of ___, pt was noted to be bleeding from a pulled 
IV site with substantial amount of blood pooled beneath is arm. 
A stat hematocrit was performed prior to transfer which was 
stable. His VS were stable. Once patient arrived to the medicine 
floor, he was monitored on telemetry given his recent PEA 
arrest. He was continued on IV antibiotics for his previously 
diagnosed pneumonia, although it was noted he had no pneumonia 
on his current CXR. He was continued on IV heparin gtt for 
presumed PE on a tighter therapeutic range given his recent 
bleeding, with plans to repeat a formal TTE in the morning and 
pursue further workup of his PEA arrest. Of note, the patient's 
spouse had a lengthy discussion with the on call ___ 
resident and it was determined that the patient would continue 
to have a DNR code status (intubation acceptable). 

Once on the floor, a repeat hematocrit was to be drawn given his 
recent bleeding. However, this could not be drawn given 
patient's confusion and agitation which was acute in nature. He 
was given a dose of zyprexa for agitation and shortly thereafter 
was noted to convert to asystole on the tele monitor. The 
nightfloat intern was called to pronounce the patient. The death 
note is copied below:

Death Note
___

Called to patient's bedside because of asystole on telemetry.  
He
was not responsive to voice or pain. Pulses absent. No heart
sounds or breath sounds present.  Pupils not reactive to light.
His most recent code status is DNR.  No resuscitative attempts
made. Patient pronounced dead at 3:42 am on ___.  Wife 
___
notified, she declined autopsy. Attending of record, ___, notified.

 
Medications on Admission:
Levofloxacin 500mg qd x3days
albuterol nebulizer 4x daily
ranitidine HCL 150mg qd
multivitamin qd PO
Lidocaine HCL 1 patch
Glipizide 5mg qd po
gabapentin 300mg poqd
colace 100mg po qd
clopidogrel 75mg
Vit D 1000 units qd PO
aspirin 81mg qd
allopurinol ___ qd
acetaminophen 325mg qd
Venlafaxine HCL 37.5 mg hs 
Mirtazapine 7.5 mg hs
Pravastatin 40mg qd
Insuline Sliding scale
Insuline Glargine 18 U
Ferrous Sulfate 325mg bid po
Carvedilol 12.5 bid 
tramadol 50mg q6h prn pain
milk of mag 10 ml po prn constipation

 
Discharge Medications:
EXPIRED
 
Discharge Disposition:
Expired
 
Discharge Diagnosis:
EXPIRED
 
Discharge Condition:
EXPIRED
 
Discharge Instructions:
EXPIRED
 
Followup Instructions:
___